//============================================================================
// CAPACITOR
// Cxx NP NN
//      [MOD[EL]=MNAME] [DCCUT] [VAL] [M=VAL] [L=VAL] [W=VAL]
//    + [T[EMP]=VAL] [DTEMP=VAL]
//    + [TC1=T1] [TC2=T2] [TC3=T3] [IC=VAL]
//    + [STATISTICAL=0|1]
//
//      POLY VAL {COEF}
//    + [M=VAL] [TC1=T1] [TC2=T2] [TC3=T3]
//    + [CTYPE=VAL] [IC=VAL]
//    + [STATISTICAL=0|1]
//
//      [VALUE=]{EXPR} [ACDERFUNC=0|1] [RESTORE_CAUSALITY=0|1]
//    + [TC1=T1] [TC2=T2] [TC3=T3] [CTYPE=VAL]
//    + [STATISTICAL=0|1]
//============================================================================
c0 n3 n4 0.5pf
c1 n3 n7 poly 5p 0.1p 0.07p 0.004p
c2 n1 n2 cval
c3 1 2 value={2n * v(3, 4) * i(v5)}
c4 1 0 value={1.0e-9 * v(2, 0)}
c5 NP NN TES MOD=MNAME 0.5pf 1pf M=1.0 L=2nm W=1nm T=27 DTEMP=0.0 TC1=0.0 TC2=0.0 TC3=0.0 IC=5
c3 1 s cmodel 0.5pf
c1 1 2 cmodel1 tc1=25e-3 m=2 dtemp=10

// ============================================================================
// SPICE
// ============================================================================
// Capacitors
CBYP 13 0 1UF
COSC 17 23 10U IC=3V

// Semiconductor Capacitors
CLOAD 2 10 10P
CMOD 3 7 CMODEL L=10u W=1u

C0 Vdd n152 4.3fF
C1 Vdd n7 5.5fF
C2 Vdd a_176_n107 3.6fF
C3 Vdd a_60_n107 3.6fF
C4 Vdd a_n57_n260 2.7fF
C5 Vdd n178 15.5fF
C6 Vdd a_255_n22 3.6fF
C7 Vdd n21 15.8fF
C8 n13 a_6_0 3.9fF
C9 n13 nRb 5.5fF
C10 Vdd a_6_0 9.7fF
C11 Vdd nRb 11.2fF
C12 n13 n9 3.2fF
C13 Vdd n9 54.8fF
C14 Vdd Gnd 16.8fF
C15 Vdd n13 77.2fF
C16 n21 n7 3.1fF
C17 nRb a_6_0 3.1fF
C18 a_160_n260 Gnd 4.8fF
C19 a_112_n260 Gnd 4.8fF
C20 a_64_n260 Gnd 4.8fF
C21 a_247_n230 Gnd 2.9fF
C22 n152 Gnd 11.0fF
C23 n7 Gnd 35.9fF
C24 a_176_n107 Gnd 9.2fF
C25 a_60_n107 Gnd 9.2fF
C26 a_n57_n260 Gnd 13.8fF
C27 n178 Gnd 17.9fF
C28 a_255_n22 Gnd 6.0fF
C29 n21 Gnd 30.9fF
C30 a_6_0 Gnd 23.2fF
C31 nRb Gnd 22.0fF
C32 n9 Gnd 20.7fF
C33 Gnd Gnd 190.2fF
C34 n13 Gnd 27.0fF
C35 Vdd Gnd 536.3fF